US09315475B2
Step 2. tert-Butyl (2R,5R)-2-ethynyl-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-4-carboxylate
To a solution of tert-Butyl (2R,5R)-2-ethynyl-5-(hydroxymethyl)morpholine-4-carboxylate (0.51 g, 2.1 mmol) in 6 mL of pyridine was added carbonyldiimidazole (0.45 g, 2.8 mmol). The mixture was stirred at ambient temperature for 3 h. Trifluoroethylamine (4.1 mL, 53 mmol) was added, the vessel was sealed and heated to 50° C. for 24 h. The pyridine was removed in vacuo and the residue was dissolved in EtOAc and washed with water and brine. The EtOAc solution was dried (MgSO4), filtered, and the solvent was removed in vacuo. The residue was chromatographed on a 40 g SiO2 column using a gradient elution of 0-50% EtOAc in hexanes. Fractions containing product were combined and removal of solvents in vacuo gave a solid.

reactant | tert-Butyl (2R,5R)-2-ethynyl-5-(hydroxymethyl)morpholine-4-carboxylate | 2.1 mmol, 0.51 g | C(#C)[C@@H]1CN([C@@H](CO1)CO)C(=O)OC(C)(C)C | C12H19NO4
reactant | carbonyldiimidazole | 2.8 mmol, 0.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Trifluoroethylamine | 53 mmol, 4.1 mL | FC(CN)(F)F | C2H4F3N
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl (2R,5R)-2-ethynyl-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-4-carboxylate | C(#C)[C@@H]1CN([C@H](CO1)COC(=O)NCC(F)(F)F)C(=O)OC(C)(C)C | C15H21F3N2O5
